US09102632B2
To 135.8 ml (1000 mM) of diethyloxalate and 1 g of aliquat 336 in 1000 ml of dichloromethane were added 64.4 ml (1000 mM) of ethylamine (70% in water). The reaction mixture was stirred at room temperature for 72 h. The reaction mixture was dried over anhydrous sodium sulfate and the solvent was removed under vacuum, to give an oil, wick was further purified by silica gel column chromatography, using dichloromethane/dimethylketone (95/5) as eluant, to give 59.9 g of ethyl(ethyl amino)(oxo)acetate as an oil. Yield: 41.3%.

reactant | diethyloxalate | 1000 mM, 135.8 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | ethylamine | 1000 mM, 64.4 ml | C(C)N | C2H7N
catalyst | aliquat 336 | 1 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | ethyl(ethyl amino)(oxo)acetate | 59.9 g, Yield: 41.3% | C(C)OC(C(=O)NCC)=O | C6H11NO3
